US08030302B2
5-(2-Fluoro-4-nitrophenoxy)-1-methyl-1H-indazole-6-carboxylic acid
To a solution of ethyl 5-(2-fluoro-4-nitrophenoxy)-1-methyl-1H-indazole-6-carboxylate (1.19 g, 3.5 mmol) in THF/H2O (15 mL/5 mL) is added LiOH (0.2 g, 8.3 mmol). After the reaction is stirred at RT for 2 hours, the solvents are removed. The residue is acidified with 2N HCl to pH 5, and extracted with EtOAc (50 mL). The organic phase is washed with saturated aqueous sodium chloride, dried and concentrated to give the product (1.1 g, 100% yield). MS (m/z): 332.0 (M+H).

reactant | ethyl 5-(2-fluoro-4-nitrophenoxy)-1-methyl-1H-indazole-6-carboxylate | 3.5 mmol, 1.19 g | FC1=C(OC=2C=C3C=NN(C3=CC2C(=O)OCC)C)C=CC(=C1)[N+](=O)[O-] | C17H14FN3O5
reactant | LiOH | 8.3 mmol, 0.2 g | [Li+].[OH-]
solvent | THF H2O | 15 mL | C1CCOC1.O
product | 5-(2-Fluoro-4-nitrophenoxy)-1-methyl-1H-indazole-6-carboxylic acid | 1.1 g, 100% yield | FC1=C(OC=2C=C3C=NN(C3=CC2C(=O)O)C)C=CC(=C1)[N+](=O)[O-] | C15H10FN3O5
